US05977132
To a solution of 4,7-Dihydro-5-carbamoyl-4-oxothieno[2,3-b]pyridine derivative (vih) in an appropriate solvent, e.g. toluene, tetrahydrofuran, dioxane, an equivalent amount or a small excess amount of thioamide reagent, e.g. Lawessons reagent, is added under room temperature or ice-cooling. The mixture is stirred at a temperature of 0° C. to 80° C., and subjected to refluxing under heating if required, to give a 4,7-dihydro-5-thiocarbamoyl-4-oxothieno[2,3-b]pyridine derivative (viih).

reactant | 4,7-Dihydro-5-carbamoyl-4-oxothieno[2,3-b]pyridine | C(N)(=O)C=1C(C2=C(NC1)SC=C2)=O | C8H6N2O2S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | Lawessons reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4,7-dihydro-5-thiocarbamoyl-4-oxothieno[2,3-b]pyridine | C(N)(=S)C=1C(C2=C(NC1)SC=C2)=O | C8H6N2OS2
